US08455483B2
a) 3-(3-(Hydroxymethyl)phenyl)prop-2-yn-1-ol
Copper (I) iodide (0.037 g) and tetrakis(triphenylphosphine)palladium (0) (0.075 g) were added to a solution of (3-iodophenyl)methanol (2.27 g), tert-butyldimethyl(prop-2-ynyloxy)silane (1.1 g) and triethylamine (2.7 mL) in NMP (20 mL) and the mixture stirred at ambient temperature under nitrogen for 18 hours. The mixture was diluted with water and extracted into ethyl acetate (×3). The combined extracts were washed successively with 10% brine, 30% brine and saturated brine, dried over magnesium sulfate, filtered and the solvent removed. The crude product was purified by flash silica chromatography, elution gradient 10, 15 and 20% ethyl acetate in isohexane. Appropriate fractions were evaporated to dryness to give a mixture of product and starting material. The mixture was purified by preparative HPLC (XBridge™, Gradient: 65-99% acetonitrile in 0.2% aqueous TFA) to afford the subtitled compound as a pale yellow oil. Yield 0.44 g.

reactant | (3-iodophenyl)methanol | 2.27 g | IC=1C=C(C=CC1)CO | C7H7IO
reactant | tert-butyldimethyl(prop-2-ynyloxy)silane | 1.1 g | C(C)(C)(C)[Si](OCC#C)(C)C | C9H18OSi
reactant | triethylamine | 2.7 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
catalyst | Copper (I) iodide | 0.037 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.075 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-(Hydroxymethyl)phenyl)prop-2-yn-1-ol | OCC=1C=C(C=CC1)C#CCO | C10H10O2
